US07112582B2
The activated manganese (IV) oxide (16.75 g) was added to the mixture of chloroform (180 ml) solution of [5-(4,5-dihydrothiazol-2-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl]-methanol (3.35 g) at room temperature. The reaction mixture was refluxed for 1 hour. After refluxing, the mixture was filtered through a pad of Celite and the filtrate was concentrated under reduced pressure. The residue was dried in vacuo and the crude 5-(4,5-dihydrothiazol-2-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carbaldehyde was obtained as a colorless solid. The crude aldehyde thus obtained(2.56 g) was added to a dry acetonitrile (200 ml) solution of MgBr2 (7.36 g) under a nitrogen atmosphere at room temperature then the mixture was stirred for 10 minutes. A dry THF (200 ml) solution of WLJ 20,014 (4.16 g) was added and the mixture was cooled to −20° C. Then triethylamine (11.3 ml) was added in one portion. The reaction vessel was covered with foil to exclude light. The reaction mixture was stirred for 1.5 hours at −20° C. and treated with 4-dimethylaminopyridine (132 mg) and acetic anhydride (4.2 ml) in one portion. The reaction mixture was warmed to 0° C. and stirred for 20 hours at 0° C. The mixture was diluted with ethyl acetate and washed with 5% citric acid aqueous solution, saturated sodium hydrogen carbonate, and brine. The organic layer was dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure. The residue was applied to silica gel column chromatography, then eluted with n-hexane-AcOEt (1:2) and chloroform-methanol (9:1). The (5R,6RS)-6-{(RS)-acetoxy-[5-(4,5-dihydrothiazol-2-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl]-methyl}-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitrobenzyl ester was obtained (5.41 g, 75.4%).

reactant | [5-(4,5-dihydrothiazol-2-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl]-methanol | 3.35 g | S1C(=NCC1)N1CC=2N(CC1)N=C(C2)CO | C10H14N4OS
catalyst | manganese (IV) oxide | 16.75 g | [O-2].[Mn+4].[O-2]
solvent | chloroform | 180 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(4,5-dihydrothiazol-2-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carbaldehyde | S1C(=NCC1)N1CC=2N(CC1)N=C(C2)C=O | C10H12N4OS
